US05210278
A flask heated by hot oil was fitted with a chilled water overhead condenser, a thermowell with a thermocouple, an overhead stirrer and a vacuum pump. Crude APMC-Ether (20 grams) containing 78.2 weight percent APMC-Ether, 7.2 weight percent APMC and 3.9 weight percent 4-acetoxyphenylmethylcarbinol acetate (sometimes referred to herein as "APMC-Acetate") was mixed in another flask with six (6.0) grams of acetic anhydride. Phosphoric acid (0.022 grams) having a concentration of 85 weight percent that corresponds to 0.32 moles of pure phosphoric acid per 100 moles of APMC-Ether was added to said mixture. The resultant mixture was fed to the hot flask at a rate of 1.2 grams per minute. The hot oil temperature was maintained at about 220° C. to about 230° C. and the reaction mass temperature in the hot flask was maintained at about 180° C. to about 200° C. The vacuum pump maintained a vacuum in the flask at about 80 mm Hg. 4-acetoxystyrene and acetic acid were produced in the hot flask.

reactant | water | O | H2O
reactant | 4-acetoxyphenylmethylcarbinol acetate | C(C)(=O)OCCC1=CC=C(C=C1)OC(C)=O | C12H14O4
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | Phosphoric acid | 0.022 grams | P(O)(O)(O)=O | H3O4P
reactant | phosphoric acid | 0.32 moles | P(O)(O)(O)=O | H3O4P
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-acetoxystyrene | C(C)(=O)OC1=CC=C(C=C)C=C1 | C10H10O2
